US07220856B2
Preparation of 7-Chloro-4-[4-(cyclopentylaminocarbonyl)piperazin-1-yl]quinoline
As described for 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline, 7-chloro-4-(piperazin-1-yl)quinoline (180 mg, 0.73 mmol), diisopropyl(ethyl)amine (189 mg, 1.46 mmol), and cyclopentyl isocyanate (97 mg, 0.88 mmol) are reacted to give the title product after flash chromatography with CH2Cl2-MeOH.

reactant | 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H18ClF3N4O
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.73 mmol, 180 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | diisopropyl(ethyl)amine | 1.46 mmol, 189 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopentyl isocyanate | 0.88 mmol, 97 mg | C1(CCCC1)N=C=O | C6H9NO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 7-Chloro-4-[4-(cyclopentylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCCC1 | C19H23ClN4O
